US08217043B2
c) 1-Butyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester
A mixture of butyl-pyrrol-1-yl-amine (943 mg) and 2-ethoxycarbonyl-malonic acid diethyl ester (3.15 mL) in a test tube was heated for 30 min at 170° C. and then 30 min at 200° C.; then cooled, the residue was directly column-purified to give the desired product (778 mg) as brown liquid. ESI (m/z): 279 (M+H)+.

reactant | butyl-pyrrol-1-yl-amine | 943 mg | C(CCC)NN1C=CC=C1 | C8H14N2
reactant | 2-ethoxycarbonyl-malonic acid diethyl ester | 3.15 mL | C(C)OC(C(C(=O)OCC)C(=O)OCC)=O | C10H16O6
product | 1-Butyl-4-hydroxy-2-oxo-1,2-dihydro-pyrrolo[1,2-b]pyridazine-3-carboxylic acid ethyl ester | 778 mg | C(C)OC(=O)C1=C(C=2N(N(C1=O)CCCC)C=CC2)O | C14H18N2O4
